US08530503B2
4-(5-(4-ethoxy-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ol
In a microwave vial, a stirring solution of 4-ethoxy-3-(trifluoromethyl)benzoic acid (200 mg, 0.85 mmol) in DMF was treated with HOBt (151 mg, 1.11 mmol) and EDCI (212 mg, 1.11 mmol) at room temperature. The reaction was stirred for 20 min followed by addition, in a single portion, of N′,1-dihydroxy-2,3-dihydro-1H-indene-4-carboximidamide (213 mg, 1.11 mmol). The reaction was stirred for additional 30 min at room temperature and then heated to 130° C. for 35 min in the initiator. The reaction was diluted using a saturated solution of NaCl and extracted with EtOAc (80 ml×3). The organic phase was dried over Na2SO4 anhydrous and concentrated under reduced pressure. The product was purified by column chromatography using CH2Cl2:MeOH (9:1) to offer the product as white solid in 51% yield (200 mg).

reactant | 4-ethoxy-3-(trifluoromethyl)benzoic acid | 0.85 mmol, 200 mg | C(C)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C10H9F3O3
reactant | HOBt | 1.11 mmol, 151 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.11 mmol, 212 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N′,1-dihydroxy-2,3-dihydro-1H-indene-4-carboximidamide | 1.11 mmol, 213 mg | ON=C(N)C=1C=2CCC(C2C=CC1)O | C10H12N2O2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(5-(4-ethoxy-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ol | 51% yield | C(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=C2CCC(C2=CC=C1)O)C(F)(F)F | C20H17F3N2O3
